US07618990B2
Methyl 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutanoate (1.15 g, 2.81 mmol), prepared in the previous step, was dissolved in 28 mL of anhydrous tetrahydrofuran and cooled to 0° C. Lithium aluminum hydride (1M solution in THF, 5.6 mL, 5.6 mmol) was added dropwise and the mixture was stirred for 1 h. The reaction was quenched by careful addition of 0.22 mL of water, 0.22 mL of 15% aqueous KOH, followed by 0.66 mL of water and the mixture was stirred for 20 min. The mixture was diluted with ethyl acetate and filtered through the Celite™ reagent. The filtrate was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (gradient 2% acetone/hexane to 5% acetone/hexane) afforded 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutan-1-ol (0.81 g, 76%) as a white solid. mp 120-121° C. HRMS: calcd for C13H12BrF3N2OS+H+, 380.98785; found (ESI, [M+H]+), 380.9886. Analytical HPLC: retention time 10.2 min, 210-370 nm the Xterra® RP18 column, 3.5μ, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | Methyl 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutanoate | 2.81 mmol, 1.15 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(C(=O)OC)CC(F)(F)F | C14H12BrF3N2O2S
reactant | Lithium aluminum hydride | 5.6 mmol, 1M, 5.6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 28 mL | O1CCCC1 | C4H8O
product | 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-4,4,4-trifluorobutan-1-ol | 0.81 g, 76% | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(CO)CC(F)(F)F | C13H12BrF3N2OS
